US08026257B2
4-(7-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile.
tert-Butyl 4-(((5-(4-cyanophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (391 mg, 0.60 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 10 mL) and stirred at room temperature for 2 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 241 mg (95%) as an amorphous solid. 1H-NMR (CDCl3, 500 MHz) δ 8.02 (s, 1H), 7.79 (s, 1H), 7.64 (m, 4H), 7.22-7.50 (m, 7H), 4.73 (s, 2H), 3.57 (s, 2H), 3.41 (s, 1H), 2.90 (m, 2H), 2.75 (m, 2H), 2.19 (m, 2H), 1.88 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 145.9, 144.1, 138.6, 134.9, 132.7, 132.0, 129.0, 127.9, 127.1, 126.8, 124.4, 123.7, 121.8, 119.1, 119.0, 110.4, 80.6, 72.0, 42.6, 41.7, 33.6. Mass spec.: 423.18 (MH)+. Accurate mass spec.: m/z 423.2206 [MH]+, Δ=5.0 ppm.

reactant | tert-Butyl 4-(((5-(4-cyanophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.60 mmol, 391 mg | C(#N)C1=CC=C(C=C1)C1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C38H48N4O4Si
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(7-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=C2C=NNC12)C1=CC=C(C#N)C=C1 | C27H26N4O
